US07476663B2
(b) 2-trifluoroacetylamino-isobutyric acid-chloride
0.54 g (2.71 mmol) 2-trifluoroacetylamino-isobutyric acid are combined with 1.8 ml (2.47 g, 20.8 mmol) thionyl chloride and refluxed for 2 hours with stirring. The mixture is then evaporated down i. vac. and any remaining thionyl chloride is eliminating by blowing dry nitrogen over it. The residue is taken up in diethyl ether and petroleum ether and evaporated down again by blowing dry nitrogen over it.

reactant | 2-trifluoroacetylamino-isobutyric acid | 2.71 mmol, 0.54 g | FC(C(=O)NC(C(=O)O)(C)C)(F)F | C6H8F3NO3
reactant | thionyl chloride | 20.8 mmol, 1.8 ml, 2.47 g | S(=O)(Cl)Cl | Cl2OS
product | 2-trifluoroacetylamino-isobutyric acid-chloride | FC(C(=O)NC(C(=O)Cl)(C)C)(F)F | C6H7ClF3NO2
